US03954754
EXAMPLE 21: 6-(m-Chlorobenzoyl)-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine
10.8 g of 3-chloro-6-(m-chlorobenzoyl)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine and 50 cc of hydrazine hydrate are stirred at a bath temperature of 100° for 4 hours with the addition of 25 cc of isopropanol, and the mixture is worked up to a crude base as described in Example 17, and this crude base is converted into the fumarate in a manner analogous to that described in Example 4. The fumarate of the title compound has a M.P. of 178°-180° (decomp., from absolute ethanol).

reactant | 3-chloro-6-(m-chlorobenzoyl)-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | 10.8 g | ClC1=CC2=C(N=N1)CCN(C2)C(C2=CC(=CC=C2)Cl)=O | C14H11Cl2N3O
reactant | hydrazine hydrate | 50 cc | O.NN
reactant | fumarate | C(\C=C\C(=O)[O-])(=O)[O-]
solvent | isopropanol | 25 cc | C(C)(C)O | C3H8O
product | 6-(m-Chlorobenzoyl)-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | ClC=1C=C(C(=O)N2CC3=C(N=NC(=C3)NN)CC2)C=CC1 | C14H14ClN5O
